US04150025
350 g of o-dichlorobenzene was added to 186 g (1.0 mole) of 6-amino-4,8-dimethylquinaldine and 286 g (1.0 mole) of 3,4,5,6-tetrachlorophthalic anhydride, and the mixture was refluxed at the boiling point for 4 hours. The reaction mixture was then cooled. The crystals precipitated were collected by filtration, and dried to afford 394 g (0.87 mole) of 4,8-dimethyl-6-(3,4,5,6-tetrachlorophthalimido)-quinaldine. Then, 372 g (1.30 moles) of 3,4,5,6-tetrachlorophthalic anhydride, 2,000 g of 1,2,4-trichlorobenzene and 40 g of anhydrous zinc chloride were added, and the mixture was heated under reflux for 3 hours. Then, 500 g of dimethylformamide was added, and the mixture was stirred under reflux for 1 hour. The product was treated in the same way as in paragraph (C) of Example 1 to afford 571 g (0.79 mole) of a yellow compound. Since the compound obtained was scarcely soluble in dimethylformamide, its visible spectrum could not be measured. In its infrared spectrum (KBr), absorptions ascribable to --CO--N--CO-- were observed at 1730 cm-1 and 1790 cm-1, and absorptions ascribable to --CO--C--CO--, at 1645 cm-1 and 1695 cm-1. The elemental analysis values of this product were as follows:

reactant | 6-amino-4,8-dimethylquinaldine | 1.0 mole, 186 g | NC=1C=C2C(=CC(=NC2=C(C1)C)C)C | C12H14N2
reactant | 3,4,5,6-tetrachlorophthalic anhydride | 1.0 mole, 286 g | ClC1=C2C(C(=O)OC2=O)=C(C(=C1Cl)Cl)Cl | C8Cl4O3
solvent | o-dichlorobenzene | 350 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4,8-dimethyl-6-(3,4,5,6-tetrachlorophthalimido)-quinaldine | 0.87 mole, 394 g | CC1=CC(=NC2=C(C=C(C=C12)N1C(C=2C(C1=O)=C(C(=C(C2Cl)Cl)Cl)Cl)=O)C)C | C20H12Cl4N2O2
